US05189054
Scheme I, step d2 : 3-[(phenacyl)amino-]-2-carbethoxy-6-trifluoromethyl-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(phenacyl)amino]-2-carbethoxy-6-trifluoromethylindole (390 mg, 1.04 mmol), di-tert-butyl dicarbonate (249 mg, 1.14 mmol), tetrahydrofuran (10 mL), dimethylaminopyridine (33 mg, 0.32 mmol) and stir overnight. Dilute the reaction with ethyl acetate, wash with 1M HCl, water, dry over magnesium sulfate, filter and concentrate in vacuo. Purify by flash chromatography (15% ethyl acetate/hexane) to yield the title compound as an amber oil (320 mg, 66%).

reactant | 3-[(phenacyl)amino]-2-carbethoxy-6-trifluoromethylindole | 1.04 mmol, 390 mg | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C20H17F3N2O3
reactant | di-tert-butyl dicarbonate | 1.14 mmol, 249 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.32 mmol, 33 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)amino-]-2-carbethoxy-6-trifluoromethyl-1-(tert-butyloxycarbonyl)-indole | 320 mg, 66% | C(C(=O)C1=CC=CC=C1)NC1=C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)OC(C)(C)C)C(=O)OCC | C25H25F3N2O5
